US07807709B2
B. (3S,4R)-3-Hydroxymethyl-4-({isopropyl-[1-(3-methoxy-propyl)-3-methyl-1H-indole-6-carbonyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (3S,4R)-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (13.8 g, 22 mmol) in MeCN (350 mL) is added tetraethylammonium fluoride hydrate (6.6 g, 44 mmol) under a nitrogen atmosphere. The reaction mixture is refluxed for 3 h. Water and AcOEt are added, the layers are separated and the aqueous one extracted twice with AcOEt. The combined organic extracts are dried (Na2SO4), filtered and the solvent is removed in vacuo. The crude product is purified by flash chromatography on silica gel (eluent: CH2Cl2/MeOH 100:0 to 90:10) to give the title product. TLC, Rf (CH2Cl2/MeOH 95:5)=0.2. MS (LC-MS): 402.2 [M+H-Boc]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 6.85 min.

reactant | (3S,4R)-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 22 mmol, 13.8 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)C(O[SiH2]C(C)(C)C)(C)C | C32H56N2O7Si
reactant | tetraethylammonium fluoride hydrate | 44 mmol, 6.6 g | O.[F-].C(C)[N+](CC)(CC)CC
reactant | Water | O | H2O
reactant | AcOEt | CCOC(=O)C | C4H8O2
reactant | MeCN | 350 mL | CC#N | C2H3N
product | (3S,4R)-3-Hydroxymethyl-4-({isopropyl-[1-(3-methoxy-propyl)-3-methyl-1H-indole-6-carbonyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(=O)C1=CC=C2C(=CN(C2=C1)CCCOC)C)C(C)C)CO | C28H43N3O5
